US06174885B1
{6-[(Dodecylamino)carbonyl]-3,4-dimethyl-3-cyclohexenyl}methyl N-(2-piperidinoethyl)carbamate hydrochloride (Compound 14)
4N Hydrochloric acid/ethyl acetate solution (0.51 ml) was added to a solution of {6-[(dodecylamino)carbonyl]-3,4-dimethyl-3-cyclohexenyl}methyl N-(2-piperidinoethyl)carbamate (0.850 g) in ethyl acetate (9 ml) and then stirred for 30 minutes at room temperature. The reaction mixture was concentrated, thereby yielding the entitled compound (0.870 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.51 ml | Cl.C(C)(=O)OCC
reactant | {6-[(dodecylamino)carbonyl]-3,4-dimethyl-3-cyclohexenyl}methyl N-(2-piperidinoethyl)carbamate | 0.850 g | N1(CCCCC1)CCNC(OCC1CC(=C(CC1C(=O)NCCCCCCCCCCCC)C)C)=O | C30H55N3O3
solvent | ethyl acetate | 9 ml | C(C)(=O)OCC | C4H8O2
product | {6-[(Dodecylamino)carbonyl]-3,4-dimethyl-3-cyclohexenyl}methyl N-(2-piperidinoethyl)carbamate hydrochloride | 0.870 g | Cl.N1(CCCCC1)CCNC(OCC1CC(=C(CC1C(=O)NCCCCCCCCCCCC)C)C)=O | InChI=1S/C30H55N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-14-17-31-29(34)28-23-26(3)25(2)22-27(28)24-36-30(35)32-18-21-33-19-15-13-16-20-33;/h27-28H,4-24H2,1-3H3,(H,31,34)(H,32,35);1H
